US04945100
1-(1H-1,2,4-triazol-1-yl)-2-isopropoxy-2-(2,4-dichlorophenyl)-pentane
A solution of 5.5 g (30 mmoles) of dimethyl azodicarboxylate is added dropwise, at room temperature, to a solution of 5.8 g (20 mmoles) of 2-(2,4-dichlorophenyl)-2-isopropoxypentan-1-ol, 7.9 g (30 mmoles) of triphenylphosphine and 1.66 g (24 mmoles) of 1,2,4-triazole in 100 ml of absolute tetrahydrofuran, and the reaction mixture is then stirred for 3 hours at room temperature and then for a further 16 hours at 50° C. and is evaporated; the residue is digested with 100 ml of diethyl ether, the insoluble residue is filtered off, and the ether phase is concentrated again and purified by column chromatography (silica gel; 1:1 ethyl acetate/petroleum ether). This gives a colourless oil having physical data which agree entirely with those in Example 3b).

reactant | dimethyl azodicarboxylate | 30 mmoles, 5.5 g | N(=NC(=O)OC)C(=O)OC | C4H6N2O4
reactant | 2-(2,4-dichlorophenyl)-2-isopropoxypentan-1-ol | 20 mmoles, 5.8 g | ClC1=C(C=CC(=C1)Cl)C(CO)(CCC)OC(C)C | C14H20Cl2O2
reactant | triphenylphosphine | 30 mmoles, 7.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,2,4-triazole | 24 mmoles, 1.66 g | N1N=CN=C1 | C2H3N3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(1H-1,2,4-triazol-1-yl)-2-isopropoxy-2-(2,4-dichlorophenyl)-pentane | N1(N=CN=C1)CC(CCC)(C1=C(C=C(C=C1)Cl)Cl)OC(C)C | C16H21Cl2N3O
